US03932429
A mixture of 0.52 g of methyl 1-(3-methoxyphenyl)-3-oxo-cyclohexane-1-carboxylate, 0.5 ml of 30% aqueous methylamine, 8 ml of methanol and 0.025 g of platinum oxide is shaken for 48 hours in a hydrogen atmosphere. After the reaction, the mixture is filtered to remove the catalyst. The filtrate is concentrated under reduced pressure to remove solvent, whereby methyl 1-(3-methoxyphenyl)-3-methylamino-cyclohexane-1-carboxylate is obtained as crude oil. 7 ml of xylene are added to the crude oil and the mixture is refluxed for 20 hours under heating. Then, the mixture is concentrated under reduced pressure to remove solvent. The residue is dissolved in ether. The ether solution is washed with 10 % hydrochloric acid and water, successively, dried and then evaporated to remove solvent. The residue thus obtained is recrystallized from n-hexane. 0.33 g of 1-(14 3-methoxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane-7-one is obtained. M.p. 68° - 70°C.

reactant | methyl 1-(3-methoxyphenyl)-3-oxo-cyclohexane-1-carboxylate | 0.52 g | COC=1C=C(C=CC1)C1(CC(CCC1)=O)C(=O)OC | C15H18O4
reactant | methylamine | 0.5 ml | CN | CH5N
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.025 g | [Pt]=O
solvent | methanol | 8 ml | CO | CH4O
product | methyl 1-(3-methoxyphenyl)-3-methylamino-cyclohexane-1-carboxylate | COC=1C=C(C=CC1)C1(CC(CCC1)NC)C(=O)OC | C16H23NO3
